US04507492
A mixture of 2,6-dimethylphenol (1.22 g, 10 mmoles), allyl methyl carbonate (1.40 g, 12 mmoles), 5 percent palladium on charcoal (26 mg, 0.0125 mmole paladium) and triphenyl phosphine (20 mg, 0.0375 mmole) is heated at 70° C. for 45 minutes. Filtration of the catalyst and bulb-to-bulb distillation of the residue at 120° C., 10 mm Hg gives 1.60 g of substantially pure allyl 2,6-dimethylphenyl ether, 98.7 percent yield.

reactant | 2,6-dimethylphenol | 10 mmoles, 1.22 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | allyl methyl carbonate | 12 mmoles, 1.40 g | C(OCC=C)(OC)=O | C5H8O3
reactant | triphenyl phosphine | 0.0375 mmole, 20 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium on charcoal | 0.0125 mmole, 26 mg | [Pd] | Pd
product | allyl 2,6-dimethylphenyl ether | 98.7 percent yield | CC1=C(C(=CC=C1)C)OCC=C | C11H14O
